US04472381
Dibenzylphosphoryl-L-alanyl-L-proline (1.2 g, 2.5 m mole), HOBt (338 mg, 2.5 m mole) and glycine benzylester p-toluene sulfonic acid salt (1.0 g, 3 m mole) were suspended in DMF (10 ml), and WSC (0.5 ml) was dropwise added thereto while cooling to -15° C. and stirring. The reaction was carried out for 3 hours under cooling, and next, overnight at room temperature. To the reaction solution ethyl acetate (100 ml) was added and the mixture was washed with 1N hydrochloric acid and water in order, and dried with anhydrous sodium sulfate. The thus dried solution was distilled under reduced pressure to give an oily dibenzylphosphoryl-L-alanyl-L-prolyl-glycine benzylester material (1.5 g). The oily material gave a single spot with Rf 0.7 by thin layer chromatography (developing solvent; chloroform:methanol:acetic acid=95:5:3, colour forming method: spraying of 25% hydrobromic acid and 0.1% ninhydrine and heating).

reactant | Dibenzylphosphoryl-L-alanyl-L-proline | 1.2 g | C(C1=CC=CC=C1)P(=O)(CC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C22H27N2O4P
reactant | HOBt | 338 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | glycine benzylester p-toluene sulfonic acid salt | 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC(CN)=O
reactant | WSC | 0.5 ml | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | dibenzylphosphoryl-L-alanyl-L-prolyl-glycine benzylester | 1.5 g | C(C1=CC=CC=C1)OC(CNC([C@H]1N(CCC1)C([C@@H](NP(=O)(CC1=CC=CC=C1)CC1=CC=CC=C1)C)=O)=O)=O | C31H36N3O5P
